US08012974B2
Piperidin-4-yl-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea dihydrochloride (0.073 g, 0.158 mmol) was suspended in DCM (1 mL) and N,N-diisopropylethylamine (0.1 mL, 0.55 mmol) was added. Methanesulfonyl chloride (0.015 mL, 0.19 mmol) was added and the resulting solution stirred at RT overnight. The solvent was evaporated. The remaining semi-solid was purified by SiO2 chromatography (12 g SiO2, DCM/MeOH 0-4% MeOH). Obtained 0.065 g of 1-(1-methanesulfonyl-piperidin-4-yl)-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea as an off-white solid (88% yield).

reactant | Piperidin-4-yl-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea dihydrochloride | 0.158 mmol, 0.073 g | Cl.Cl.N1CCC(CC1)NC(=O)NC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C
reactant | N,N-diisopropylethylamine | 0.55 mmol, 0.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Methanesulfonyl chloride | 0.19 mmol, 0.015 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-(1-methanesulfonyl-piperidin-4-yl)-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea | 0.065 g, 88% yield | CS(=O)(=O)N1CCC(CC1)NC(=O)NC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C | C19H32N6O4SSi
